US20010056105A1
4-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-napthylselanylethynyl)Benzoic Acid
In a manner similar to that of Example 7, by reaction of 1.35 g (3.07 mmol) of methyl 4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-napthylselanylethynyl)benzoate in 20 ml of THF and 3 g of sodium hydroxide, and after trituration from heptane, 1.05 g (80%) of the expected compound are obtained in the form of a white solid. m.p.=240° C.

reactant | methyl 4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-napthylselanylethynyl)benzoate | 3.07 mmol, 1.35 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C#CC1=CC=C(C(=O)OC)C=C1 | C25H28O2Se
reactant | heptane | CCCCCCC | C7H16
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 3 g | [OH-].[Na+]
product | 4-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-napthylselanylethynyl)Benzoic Acid | 1.05 g, 80% | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C#CC1=CC=C(C(=O)O)C=C1 | C24H26O2Se
